US09382188B2
B) 3-(3-((acetyl(2-(2,2-dimethylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)amino)methyl)phenyl)-3-cyclopropylpropanoic acid
To a solution of ethyl 3-cyclopropyl-3-(3-((N-(2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)acetamido)methyl)phenyl)propanoate (104 mg) in ethanol (1.9 mL) was added 2N aqueous sodium hydroxide solution (466 μL) at room temperature, and the mixture was stirred at 50° C. for 2 hr. The reaction mixture was neutralized with 1N hydrochloric acid at 0° C., and extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure to give the title compound (99 mg) as a white amorphous solid.

reactant | ethyl 3-cyclopropyl-3-(3-((N-(2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)acetamido)methyl)phenyl)propanoate | 104 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)CN(C(C)=O)C1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C35H42FNO4
reactant | sodium hydroxide | 2N, 466 μL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 1.9 mL | C(C)O | C2H6O
product | 3-(3-((acetyl(2-(2,2-dimethylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)amino)methyl)phenyl)-3-cyclopropylpropanoic acid | 99 mg | C(C)(=O)N(C1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C)CC=1C=C(C=CC1)C(CC(=O)O)C1CC1 | C33H38FNO4
